### PR TITLE
Work on monads and ordinary precategory adjunctions

### PR DESCRIPTION
**Pull request by ben-connors**
This adds definitions and results about monad algebras to `category-theory.monads-on-precategories`, mainly the Kleisli and Eilenberg-Moore precategories. It also adds adjunctions between ordinary precategories, copying the definitions for large precategories (with sigma types instead of records) and showing that this is implied by the triangle identities.

### CODE REVIEW

**Comment by ben-connors** [comment]
The end goal for this work is formalizing the algebraic small object argument.

**Comment by ben-connors** [comment]
I'm not entirely sure why the pre-commit check was failing but I think I've fixed it, there was some remnant from a build that I accidentally committed. When I clone it from GitHub again and run `make pre-commit` I get no errors on my machine (Linux).

**Comment by fredrik-bakke** [comment]
> I'm not entirely sure why the pre-commit check was failing but I think I've fixed it, there was some remnant from a build that I accidentally committed. When I clone it from GitHub again and run `make pre-commit` I get no errors on my machine (Linux).

Interesting, do you have a copy of the error message? The pre-commit check is not supposed to fail due to files that aren't visible to git.

**Comment by ben-connors** [comment]
This is the only error message I had:
```
Generate Agda namespace index modules........................................Failed
- hook id: generate-namespace-index-modules
- exit code: 2
```
Somehow there was a folder `src/category-theory/dist-newstyle` with some files like `cache.lagda.md` (not sure what generated it) that I accidentally committed (it's not ignored in `.gitignore`); when I deleted this folder it worked fine. Oddly enough, the pre-commit hook worked if you ran it twice even though it didn't say it changed any files.

**Comment by fredrik-bakke** [comment]
Ah, the hook and exit code you gave indicates exactly the scenario you describe, that a new "namespace index" file `dist-newstyle.lagda.md` file had to be created to index all agda files in `category-theory/dist-newstyle`, so then pre-commit was just doing its job, and there's no problem. :)

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 1]
```diff
@@ -0,0 +1,297 @@
...
+        comp-hom-Precategory D
+          (comp-hom-Precategory D g h)
+          (hom-functor-Precategory C D L f))
+      (λ h →
+        comp-hom-Precategory C
+          (comp-hom-Precategory C
+            (hom-functor-Precategory D C R g)
+            h)
+          f)
+      (map-equiv (e x2 y2))
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:92]: The agda-unimath styling conventions stipulate that we include a space character after an opening parenthesis on a new line in an expression (not necessarily including dependent function type notation `(x : X) → ...`). So, e.g., here the appropriate styling is as follows:

```suggestion
      ( map-equiv (e x1 y1))
      ( λ h →
        comp-hom-Precategory D
          ( comp-hom-Precategory D g h)
          ( hom-functor-Precategory C D L f))
      ( λ h →
        comp-hom-Precategory C
          ( comp-hom-Precategory C
            ( hom-functor-Precategory D C R g)
            ( h))
          ( f))
      ( map-equiv (e x2 y2))
```

**Comment by fredrik-bakke** [comment]
@ben-connors This PR is already nicely sized and self-contained. Are you planning to add much more? If so, I'd recommend we get this merged and then you can continue your work in a second PR

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 2]
```diff
@@ -0,0 +1,297 @@
...
+
+  is-adjoint-pair-Precategory : UU (l1 ⊔ l2 ⊔ l3 ⊔ l4)
+  is-adjoint-pair-Precategory =
+    Σ family-of-equivalences-adjoint-pair-Precategory
+      (λ e → naturality-family-of-equivalences-adjoint-pair-Precategory e)
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:97]:
```suggestion
    Σ ( family-of-equivalences-adjoint-pair-Precategory)
      ( λ e → naturality-family-of-equivalences-adjoint-pair-Precategory e)
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 3]
```diff
@@ -0,0 +1,297 @@
...
+
+  equiv-is-adjoint-pair-Precategory :
+    is-adjoint-pair-Precategory →
+    family-of-equivalences-adjoint-pair-Precategory
+  equiv-is-adjoint-pair-Precategory = pr1
+
+  naturality-equiv-is-adjoint-pair-Precategory :
+    (H : is-adjoint-pair-Precategory) →
+    naturality-family-of-equivalences-adjoint-pair-Precategory
+      (equiv-is-adjoint-pair-Precategory H)
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:107]:
```suggestion
      ( equiv-is-adjoint-pair-Precategory H)
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 4]
```diff
@@ -0,0 +1,297 @@
...
+module _
+  {l1 l2 l3 l4 : Level}
+  (C : Precategory l1 l2)
+  (D : Precategory l3 l4)
+  where
+
+  Adjunction-Precategory : UU (l1 ⊔ l2 ⊔ l3 ⊔ l4)
+  Adjunction-Precategory =
+    Σ ((functor-Precategory C D) × (functor-Precategory D C))
+      (λ LR → is-adjoint-pair-Precategory C D (pr1 LR) (pr2 LR))
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:131]:
```suggestion
    Σ ( (functor-Precategory C D) × (functor-Precategory D C))
      ( λ LR → is-adjoint-pair-Precategory C D (pr1 LR) (pr2 LR))
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 5]
```diff
@@ -0,0 +1,297 @@
...
+  (D : Precategory l3 l4)
+  (L : functor-Precategory C D)
+  (R : functor-Precategory D C)
+  where
+
+  private
+    LR = comp-functor-Precategory D C D L R
+    RL = comp-functor-Precategory C D C R L
+    idC = id-functor-Precategory C
+    idD = id-functor-Precategory D
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:167]: We do not use private declarations in agda-unimath, so please inline these definitions

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 6]
```diff
@@ -0,0 +1,297 @@
...
+
+### Triangle identities
+
+Equivalently, two functors `L` and `R` are an adjoint pair if there is a natural
+transformation `η : id ⇒ RL` called the **unit** and a natural transformation
+`ε : LR ⇒ id` called the **counit** satisfying two **triangle identities**:
+
+```text
+εL ∘ Lη = id
+Rε ∘ ηR = id
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:148]:
```suggestion
  εL ∘ Lη = id
  Rε ∘ ηR = id
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 7]
```diff
@@ -0,0 +1,297 @@
...
+      R₀ = obj-functor-Precategory D C R
+      R₁ = hom-functor-Precategory D C R
+
+    has-left-triangle-identity-Precategory : UU (l1 ⊔ l4)
+    has-left-triangle-identity-Precategory =
+      (x : obj-Precategory C) →
+      (comp-hom-Precategory D
+        (ε₀ (L₀ x))
+        (L₁ (η₀ x))) ＝
+      (id-hom-Precategory D)
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:188]:
```suggestion
      ( comp-hom-Precategory D
        ( ε₀ (L₀ x))
        ( L₁ (η₀ x))) ＝
      ( id-hom-Precategory D)
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 8]
```diff
@@ -0,0 +1,297 @@
...
+
+    has-right-triangle-identity-Precategory : UU (l2 ⊔ l3)
+    has-right-triangle-identity-Precategory =
+      (y : obj-Precategory D) →
+      (comp-hom-Precategory C
+        (R₁ (ε₀ y))
+        (η₀ (R₀ y))) ＝
+      (id-hom-Precategory C)
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:196]:
```suggestion
      ( comp-hom-Precategory C
        ( R₁ (ε₀ y))
        ( η₀ (R₀ y))) ＝
      ( id-hom-Precategory C)
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 9]
```diff
@@ -0,0 +1,297 @@
...
+            (precomp-hom-Precategory C (η₀ x) _)
+            (preserves-comp-functor-Precategory D C R (ε₀ y) (L₁ f))) ∙
+          (associative-comp-hom-Precategory C (R₁ (ε₀ y)) (R₁ (L₁ f)) (η₀ x)) ∙
+          (ap
+            (postcomp-hom-Precategory C (R₁ (ε₀ y)) _)
+            (naturality-natural-transformation-Precategory C C
+              (id-functor-Precategory C) RL η f)) ∙
+          (inv (associative-comp-hom-Precategory C (R₁ (ε₀ y)) (η₀ (R₀ y)) f)) ∙
+          (ap (precomp-hom-Precategory C f _) (rt y)) ∙
+          (left-unit-law-comp-hom-Precategory C f)
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:234]:
```suggestion
          ( ap
            ( precomp-hom-Precategory C (η₀ x) _)
            ( preserves-comp-functor-Precategory D C R (ε₀ y) (L₁ f))) ∙
          ( associative-comp-hom-Precategory C (R₁ (ε₀ y)) (R₁ (L₁ f)) (η₀ x)) ∙
          ( ap
            ( postcomp-hom-Precategory C (R₁ (ε₀ y)) _)
            ( naturality-natural-transformation-Precategory C C
              ( id-functor-Precategory C) RL η f)) ∙
          ( inv (associative-comp-hom-Precategory C (R₁ (ε₀ y)) (η₀ (R₀ y)) f)) ∙
          ( ap (precomp-hom-Precategory C f _) (rt y)) ∙
          ( left-unit-law-comp-hom-Precategory C f)
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 10]
```diff
@@ -0,0 +1,297 @@
...
+              (precomp-hom-Precategory C (R₁ (L₁ f)) _)
+              (preserves-comp-functor-Precategory D C R g h)))) ∙
+        (associative-comp-hom-Precategory C _ (R₁ (L₁ f)) (η₀ x2)) ∙
+        (ap
+          (postcomp-hom-Precategory C _ _)
+          (naturality-natural-transformation-Precategory C C idC RL η f)) ∙
+        (inv (associative-comp-hom-Precategory C _ (η₀ x1) f)) ∙
+        (ap
+          (precomp-hom-Precategory C f _)
+          (associative-comp-hom-Precategory C _ _ _))
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md:289]:
```suggestion
        ( ap
          ( precomp-hom-Precategory C (η₀ x2) _)
          ( ( preserves-comp-functor-Precategory D C R
              ( comp-hom-Precategory D g h)
              ( L₁ f)) ∙
            ( ap
              ( precomp-hom-Precategory C (R₁ (L₁ f)) _)
              ( preserves-comp-functor-Precategory D C R g h)))) ∙
        ( associative-comp-hom-Precategory C _ (R₁ (L₁ f)) (η₀ x2)) ∙
        ( ap
          ( postcomp-hom-Precategory C _ _)
          ( naturality-natural-transformation-Precategory C C idC RL η f)) ∙
        ( inv (associative-comp-hom-Precategory C _ (η₀ x1) f)) ∙
        ( ap
          ( precomp-hom-Precategory C f _)
          ( associative-comp-hom-Precategory C _ _ _))
```

File: src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md [hunk 11]
```diff
@@ -47,4 +49,29 @@ coherence-square-hom-Precategory :
...
+  (topright : hom-Precategory C y a)
+  (right : hom-Precategory C a b)
+  (bottomright : hom-Precategory C w b) →
+  coherence-square-hom-Precategory C topleft left middle bottomleft →
+  coherence-square-hom-Precategory C topright middle right bottomright →
+  coherence-square-hom-Precategory C
+    (comp-hom-Precategory C topright topleft)
+    left
+    right
+    (comp-hom-Precategory C bottomright bottomleft)
```
Comment (fredrik-bakke) [inline src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md:69]:
```suggestion
    ( comp-hom-Precategory C topright topleft)
    ( left)
    ( right)
    ( comp-hom-Precategory C bottomright bottomleft)
```

File: src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md [hunk 12]
```diff
@@ -47,4 +49,29 @@ coherence-square-hom-Precategory :
...
+comp-coherence-square-hom-Precategory C
+  topleft left middle bottomleft topright right bottomright commleft commright =
+  associative-comp-hom-Precategory C _ _ _
+  ∙ ap (postcomp-hom-Precategory C bottomright _) commleft
+  ∙ inv (associative-comp-hom-Precategory C _ _ _)
+  ∙ ap (precomp-hom-Precategory C topleft _) commright
+  ∙ associative-comp-hom-Precategory C _ _ _
```
Comment (fredrik-bakke) [inline src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md:76]: We postfix binary operators on the previous line, as you did in your adjunctions file, rather than prefix on the next line as you have done here. We also parenthesize the operands in multiline expressions.

```suggestion
  ( associative-comp-hom-Precategory C _ _ _) ∙
  ( ap (postcomp-hom-Precategory C bottomright _) commleft) ∙
  ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
  ( ap (precomp-hom-Precategory C topleft _) commright) ∙
  ( associative-comp-hom-Precategory C _ _ _)
```

File: src/category-theory/natural-transformations-functors-precategories.lagda.md [hunk 13]
```diff
@@ -222,6 +222,17 @@ module _
     eq-htpy-hom-family-natural-transformation-map-Precategory C D
       ( map-functor-Precategory C D F)
       ( map-functor-Precategory C D G)
+
+  -- Agda seems to be able to infer α and β without issue
+  htpy-eq-hom-family-natural-transformation-Precategory :
+    {α β : natural-transformation-Precategory C D F G} →
+    α ＝ β →
+    ( hom-family-natural-transformation-Precategory C D F G α ~
+      hom-family-natural-transformation-Precategory C D F G β)
```
Comment (fredrik-bakke) [inline src/category-theory/natural-transformations-functors-precategories.lagda.md:231]:
```suggestion
    hom-family-natural-transformation-Precategory C D F G α ~
    hom-family-natural-transformation-Precategory C D F G β
```

File: src/category-theory/natural-transformations-maps-precategories.lagda.md [hunk 14]
```diff
@@ -267,6 +267,14 @@ module _
     α ＝ β
   eq-htpy-hom-family-natural-transformation-map-Precategory α β =
     map-inv-equiv (extensionality-natural-transformation-map-Precategory α β)
+
+  htpy-eq-hom-family-natural-transformation-map-Precategory :
+    {α β : natural-transformation-map-Precategory C D F G} →
+    α ＝ β →
+    ( hom-family-natural-transformation-map-Precategory C D F G α ~
+      hom-family-natural-transformation-map-Precategory C D F G β)
```
Comment (fredrik-bakke) [inline src/category-theory/natural-transformations-maps-precategories.lagda.md:275]:
```suggestion
    hom-family-natural-transformation-map-Precategory C D F G α ~
    hom-family-natural-transformation-map-Precategory C D F G β
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 15]
```diff
@@ -106,6 +119,45 @@ module _
...
+          x)
+        (hom-family-natural-transformation-Precategory C C
+          (comp-functor-Precategory C C C
+            (functor-pointed-endofunctor-Precategory C T)
+            (functor-pointed-endofunctor-Precategory C T))
+          (functor-pointed-endofunctor-Precategory C T)
+          μ
+          (obj-functor-Precategory C C
+            (functor-pointed-endofunctor-Precategory C T)
+            x))))
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:160]:
```suggestion
    ( λ x →
      ( comp-hom-Precategory C
        ( hom-family-natural-transformation-Precategory C C
          ( comp-functor-Precategory C C C
            ( functor-pointed-endofunctor-Precategory C T)
            ( functor-pointed-endofunctor-Precategory C T))
          ( functor-pointed-endofunctor-Precategory C T)
          ( μ)
          ( x))
        ( hom-functor-Precategory C C
          ( functor-pointed-endofunctor-Precategory C T)
          ( hom-family-natural-transformation-Precategory C C
            ( comp-functor-Precategory C C C
              ( functor-pointed-endofunctor-Precategory C T)
              ( functor-pointed-endofunctor-Precategory C T))
            ( functor-pointed-endofunctor-Precategory C T)
            ( μ)
            ( x))))) ~
    ( λ x →
      ( comp-hom-Precategory C
        ( hom-family-natural-transformation-Precategory C C
          ( comp-functor-Precategory C C C
            ( functor-pointed-endofunctor-Precategory C T)
            ( functor-pointed-endofunctor-Precategory C T))
          ( functor-pointed-endofunctor-Precategory C T)
          ( μ)
          ( x))
        ( hom-family-natural-transformation-Precategory C C
          ( comp-functor-Precategory C C C
            ( functor-pointed-endofunctor-Precategory C T)
            ( functor-pointed-endofunctor-Precategory C T))
          ( functor-pointed-endofunctor-Precategory C T)
          ( μ)
          ( obj-functor-Precategory C C
            ( functor-pointed-endofunctor-Precategory C T)
            ( x)))))
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 16]
```diff
@@ -160,6 +232,25 @@ module _
...
+          (functor-pointed-endofunctor-Precategory C T)
+          μ
+          x)
+        (hom-family-natural-transformation-Precategory C C
+          (id-functor-Precategory C)
+          (functor-pointed-endofunctor-Precategory C T)
+          (pointing-pointed-endofunctor-Precategory C T)
+          (obj-functor-Precategory C C
+            (functor-pointed-endofunctor-Precategory C T) x))) ~
+    (λ x → id-hom-Precategory C)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:253]:
```suggestion
    ( λ x →
      comp-hom-Precategory C
        ( hom-family-natural-transformation-Precategory C C
          ( comp-functor-Precategory C C C
            ( functor-pointed-endofunctor-Precategory C T)
            ( functor-pointed-endofunctor-Precategory C T))
          ( functor-pointed-endofunctor-Precategory C T)
          ( μ)
          ( x))
        ( hom-family-natural-transformation-Precategory C C
          ( id-functor-Precategory C)
          ( functor-pointed-endofunctor-Precategory C T)
          ( pointing-pointed-endofunctor-Precategory C T)
          ( obj-functor-Precategory C C
            ( functor-pointed-endofunctor-Precategory C T) x))) ~
    ( λ x → id-hom-Precategory C)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 17]
```diff
@@ -301,17 +392,460 @@ module _
...
+        (mul-monad-Precategory)
+    associative-mul-hom-family-monad-Precategory =
+      htpy-eq-hom-family-natural-transformation-Precategory C C
+        (comp-functor-Precategory C C C
+          endofunctor-monad-Precategory
+          (comp-functor-Precategory C C C
+            endofunctor-monad-Precategory
+            endofunctor-monad-Precategory))
+        endofunctor-monad-Precategory
+        associative-mul-monad-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:407]:
```suggestion
      associative-mul-hom-family-pointed-endofunctor-Precategory C
        ( pointed-endofunctor-monad-Precategory)
        ( mul-monad-Precategory)
    associative-mul-hom-family-monad-Precategory =
      htpy-eq-hom-family-natural-transformation-Precategory C C
        ( comp-functor-Precategory C C C
          ( endofunctor-monad-Precategory)
          ( comp-functor-Precategory C C C
            ( endofunctor-monad-Precategory)
            ( endofunctor-monad-Precategory)))
        ( endofunctor-monad-Precategory)
        ( associative-mul-monad-Precategory)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 18]
```diff
@@ -301,17 +392,460 @@ module _
...
       pr1 (pr2 (pr2 (pr2 T)))
 
+    left-unit-law-mul-hom-family-monad-Precategory :
+      left-unit-law-mul-hom-family-pointed-endofunctor-Precategory C
+        (pointed-endofunctor-monad-Precategory)
+        (mul-monad-Precategory)
+    left-unit-law-mul-hom-family-monad-Precategory =
+      htpy-eq-hom-family-natural-transformation-Precategory C C
+        endofunctor-monad-Precategory endofunctor-monad-Precategory
+        left-unit-law-mul-monad-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:423]:
```suggestion
      left-unit-law-mul-hom-family-pointed-endofunctor-Precategory C
        ( pointed-endofunctor-monad-Precategory)
        ( mul-monad-Precategory)
    left-unit-law-mul-hom-family-monad-Precategory =
      htpy-eq-hom-family-natural-transformation-Precategory C C
        ( endofunctor-monad-Precategory endofunctor-monad-Precategory)
        ( left-unit-law-mul-monad-Precategory)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 19]
```diff
@@ -301,17 +392,460 @@ module _
...
       pr2 (pr2 (pr2 (pr2 T)))
+
+    right-unit-law-mul-hom-family-monad-Precategory :
+      right-unit-law-mul-hom-family-pointed-endofunctor-Precategory C
+        (pointed-endofunctor-monad-Precategory)
+        (mul-monad-Precategory)
+    right-unit-law-mul-hom-family-monad-Precategory =
+      htpy-eq-hom-family-natural-transformation-Precategory C C
+        endofunctor-monad-Precategory endofunctor-monad-Precategory
+        right-unit-law-mul-monad-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:439]:
```suggestion
      right-unit-law-mul-hom-family-pointed-endofunctor-Precategory C
        ( pointed-endofunctor-monad-Precategory)
        ( mul-monad-Precategory)
    right-unit-law-mul-hom-family-monad-Precategory =
      htpy-eq-hom-family-natural-transformation-Precategory C C
        ( endofunctor-monad-Precategory endofunctor-monad-Precategory)
        ( right-unit-law-mul-monad-Precategory)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 20]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  module _
+    {A : obj-Precategory C}
+    (a : hom-Precategory C (obj-endofunctor-monad-Precategory C T A) A)
+    where
+
+    has-unit-law-monad-algebra-Precategory : UU l2
+    has-unit-law-monad-algebra-Precategory =
+        comp-hom-Precategory C a (hom-unit-monad-Precategory C T A) ＝
+        id-hom-Precategory C
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:458]: This is indented too deeply
```suggestion
    has-unit-law-monad-algebra-Precategory =
      comp-hom-Precategory C a (hom-unit-monad-Precategory C T A) ＝
      id-hom-Precategory C
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 21]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+    has-mul-law-monad-algebra-Precategory : UU l2
+    has-mul-law-monad-algebra-Precategory =
+        comp-hom-Precategory C a (hom-endofunctor-monad-Precategory C T a) ＝
+        comp-hom-Precategory C a (hom-mul-monad-Precategory C T A)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:463]:
```suggestion
    has-mul-law-monad-algebra-Precategory =
      comp-hom-Precategory C a (hom-endofunctor-monad-Precategory C T a) ＝
      comp-hom-Precategory C a (hom-mul-monad-Precategory C T A)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 22]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+    is-monad-algebra-Precategory : UU l2
+    is-monad-algebra-Precategory =
+        has-unit-law-monad-algebra-Precategory ×
+        has-mul-law-monad-algebra-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:468]:
```suggestion
    is-monad-algebra-Precategory =
      has-unit-law-monad-algebra-Precategory ×
      has-mul-law-monad-algebra-Precategory
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 23]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  monad-algebra-Precategory : UU (l1 ⊔ l2)
+  monad-algebra-Precategory =
+    Σ (obj-Precategory C)
+      (λ A →
+      Σ (hom-Precategory C (obj-endofunctor-monad-Precategory C T A) A)
+        (λ a -> is-monad-algebra-Precategory a))
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:475]: (Sigmas are a bit of an edge case w.r.t. our indentation rules)

```suggestion
    Σ ( obj-Precategory C)
      ( λ A →
        Σ ( hom-Precategory C (obj-endofunctor-monad-Precategory C T A) A)
          ( λ a → is-monad-algebra-Precategory a))
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 24]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  obj-monad-algebra-Precategory : monad-algebra-Precategory → obj-Precategory C
+  obj-monad-algebra-Precategory = pr1
+
+  hom-monad-algebra-Precategory : (f : monad-algebra-Precategory) →
+    hom-Precategory C
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:481]:
```suggestion
  hom-monad-algebra-Precategory :
    (f : monad-algebra-Precategory) →
    hom-Precategory C
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 25]
```diff
@@ -301,17 +392,460 @@ module _
...
+      (obj-endofunctor-monad-Precategory C T (obj-monad-algebra-Precategory f))
+      (obj-monad-algebra-Precategory f)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:483]:
```suggestion
      ( obj-endofunctor-monad-Precategory C T (obj-monad-algebra-Precategory f))
      ( obj-monad-algebra-Precategory f)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 26]
```diff
@@ -301,17 +392,460 @@ module _
...
+  hom-monad-algebra-Precategory f = pr1 (pr2 f)
+
+  comm-monad-algebra-Precategory : (f : monad-algebra-Precategory) →
+    is-monad-algebra-Precategory (hom-monad-algebra-Precategory f)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:487]:
```suggestion
  comm-monad-algebra-Precategory :
    (f : monad-algebra-Precategory) →
    is-monad-algebra-Precategory (hom-monad-algebra-Precategory f)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 27]
```diff
@@ -301,17 +392,460 @@ module _
...
+  comm-monad-algebra-Precategory f = pr2 (pr2 f)
+
+  unit-law-monad-algebra-Precategory : (f : monad-algebra-Precategory) →
+    has-unit-law-monad-algebra-Precategory (hom-monad-algebra-Precategory f)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:491]:
```suggestion
  unit-law-monad-algebra-Precategory :
    (f : monad-algebra-Precategory) →
    has-unit-law-monad-algebra-Precategory (hom-monad-algebra-Precategory f)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 28]
```diff
@@ -301,17 +392,460 @@ module _
...
+          (hom-monad-algebra-Precategory f)
+          (hom-monad-algebra-Precategory g)
+          h)
+
+  hom-morphism-monad-algebra-Precategory :
+    (f g : monad-algebra-Precategory)
+    (h : morphism-monad-algebra-Precategory f g) →
+    hom-Precategory C
+      (obj-monad-algebra-Precategory f)
+      (obj-monad-algebra-Precategory g)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:515]:
```suggestion
    hom-Precategory C
      ( obj-monad-algebra-Precategory f)
      ( obj-monad-algebra-Precategory g)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 29]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  top-hom-morphism-monad-algebra-Precategory :
+    (f g : monad-algebra-Precategory)
+    (h : morphism-monad-algebra-Precategory f g) →
+    hom-Precategory C
+      (obj-endofunctor-monad-Precategory C T (obj-monad-algebra-Precategory f))
+      (obj-endofunctor-monad-Precategory C T (obj-monad-algebra-Precategory g))
+  top-hom-morphism-monad-algebra-Precategory f g h =
+    hom-endofunctor-monad-Precategory C T
+      (hom-morphism-monad-algebra-Precategory f g h)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:526]:
```suggestion
      ( obj-endofunctor-monad-Precategory C T (obj-monad-algebra-Precategory f))
      ( obj-endofunctor-monad-Precategory C T (obj-monad-algebra-Precategory g))
  top-hom-morphism-monad-algebra-Precategory f g h =
    hom-endofunctor-monad-Precategory C T
      ( hom-morphism-monad-algebra-Precategory f g h)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 30]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  comm-hom-morphism-monad-algebra-Precategory :
+    (f g : monad-algebra-Precategory)
+    (h : morphism-monad-algebra-Precategory f g) →
+    coherence-square-hom-Precategory C
+      (top-hom-morphism-monad-algebra-Precategory f g h)
+      (hom-monad-algebra-Precategory f)
+      (hom-monad-algebra-Precategory g)
+      (hom-morphism-monad-algebra-Precategory f g h)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:535]:
```suggestion
      ( top-hom-morphism-monad-algebra-Precategory f g h)
      ( hom-monad-algebra-Precategory f)
      ( hom-monad-algebra-Precategory g)
      ( hom-morphism-monad-algebra-Precategory f g h)
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 31]
```diff
@@ -301,17 +392,460 @@ module _
...
+      (hom-monad-algebra-Precategory b)
+      (hom-morphism-monad-algebra-Precategory a b f)
+      (top-hom-morphism-monad-algebra-Precategory b c g)
+      (hom-monad-algebra-Precategory c)
+      (hom-morphism-monad-algebra-Precategory b c g)
+      (comm-hom-morphism-monad-algebra-Precategory a b f)
+      (comm-hom-morphism-monad-algebra-Precategory b c g)) ∙
+    (ap
+      (postcomp-hom-Precategory C (hom-monad-algebra-Precategory c) _)
+      (inv (preserves-comp-endofunctor-monad-Precategory C T _ _)))
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:559]:
```suggestion
    ( comp-hom-Precategory C
      ( hom-morphism-monad-algebra-Precategory b c g)
      ( hom-morphism-monad-algebra-Precategory a b f)) ,
    ( comp-coherence-square-hom-Precategory C
      ( top-hom-morphism-monad-algebra-Precategory a b f)
      ( hom-monad-algebra-Precategory a)
      ( hom-monad-algebra-Precategory b)
      ( hom-morphism-monad-algebra-Precategory a b f)
      ( top-hom-morphism-monad-algebra-Precategory b c g)
      ( hom-monad-algebra-Precategory c)
      ( hom-morphism-monad-algebra-Precategory b c g)
      ( comm-hom-morphism-monad-algebra-Precategory a b f)
      ( comm-hom-morphism-monad-algebra-Precategory b c g)) ∙
    ( ap
      ( postcomp-hom-Precategory C (hom-monad-algebra-Precategory c) _)
      ( inv (preserves-comp-endofunctor-monad-Precategory C T _ _)))
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 32]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  is-set-morphism-monad-algebra-Precategory :
+    (f g : monad-algebra-Precategory) →
+    is-set (morphism-monad-algebra-Precategory f g)
+  is-set-morphism-monad-algebra-Precategory f g =
+    is-set-Σ
+      (is-set-hom-Precategory C _ _)
+      (λ hk → is-set-is-prop (is-set-hom-Precategory C _ _ _ _))
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:567]:
```suggestion
      ( is-set-hom-Precategory C _ _)
      ( λ hk → is-set-is-prop (is-set-hom-Precategory C _ _ _ _))
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 33]
```diff
@@ -301,17 +392,460 @@ module _
...
+  {l1 l2 : Level} {C : Precategory l1 l2}
+  (T : monad-Precategory C)
+  where
+
+  private
+    Tf = endofunctor-monad-Precategory C T
+    μ = hom-mul-monad-Precategory C T
+    η = hom-unit-monad-Precategory C T
+    T₀ = obj-endofunctor-monad-Precategory C T
+    T₁ = hom-endofunctor-monad-Precategory C T
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:587]: As before, we don't use private definitions in agda-unimath, so please inline these.

File: src/category-theory/monads-on-precategories.lagda.md [hunk 34]
```diff
@@ -301,17 +392,460 @@ module _
...
+                      (η z) g)) ∙
+                  (ap
+                    T₁
+                    (inv (naturality-unit-monad-Precategory C T g))))))))) ∙
+      (associative-comp-hom-Precategory C _ _ _)) ,
+    (λ x →
+      (ap
+        (precomp-hom-Precategory C _ _)
+        (preserves-id-endofunctor-monad-Precategory C T x)) ∙
+      (left-unit-law-comp-hom-Precategory C _))
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:666]: Same goes for this one. It is more useful if you define each of
- `map-to-kleisli-monad-Precategory`
- `preserves-id-map-to-kleisli-monad-Precategory`
- `preserves-comp-map-to-kleisli-monad-Precategory`
- `functor-to-kleisli-monad-Precategory` (as the iterated pair of the above)

because it is frequently these individual properties we want to refer to anyway, and this makes your code more idiomatic and readable.

File: src/category-theory/monads-on-precategories.lagda.md [hunk 35]
```diff
@@ -301,17 +392,460 @@ module _
...
+```agda
+module _
+  {l1 l2 : Level} (C : Precategory l1 l2)
+  (T : monad-Precategory C)
+  where
+
+  private
+    Tf = endofunctor-monad-Precategory C T
+    T₁ = hom-endofunctor-monad-Precategory C T
+    T₀ = obj-endofunctor-monad-Precategory C T
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:712]: Please inline these declarations.

File: src/category-theory/monads-on-precategories.lagda.md [hunk 36]
```diff
@@ -301,17 +392,460 @@ module _
...
+
+  em-monad-Precategory : Precategory (l1 ⊔ l2) l2
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:714]: A better name for this entry might be `eilenberg-moore-monad-Precategory` as the abbreviation `em` is not at all obvious to me without more context.

File: src/category-theory/monads-on-precategories.lagda.md [hunk 37]
```diff
@@ -301,17 +392,460 @@ module _
...
+    (λ {a} {b} f →
+      eq-pair-Σ
+        (left-unit-law-comp-hom-Precategory C
+          (hom-morphism-monad-algebra-Precategory C T a b f))
+        (eq-is-prop (is-set-hom-Precategory C _ _ _ _)))
+    λ {a} {b} f →
+      eq-pair-Σ
+        (right-unit-law-comp-hom-Precategory C
+          (hom-morphism-monad-algebra-Precategory C T a b f))
+        (eq-is-prop (is-set-hom-Precategory C _ _ _ _))
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:744]: Again here, see my comment for the Kleisli category

File: src/category-theory/monads-on-precategories.lagda.md [hunk 38]
```diff
@@ -301,17 +392,460 @@ module _
...
+        ( (inv (associative-comp-hom-Precategory C _ _ _)) ∙
+          (ap
+            (precomp-hom-Precategory C (T₁ f) _)
+            (inv (naturality-mul-monad-Precategory C T g))) ∙
+          (associative-comp-hom-Precategory C _ _ _))) ∙
+      (inv (associative-comp-hom-Precategory C _ _ _))) ,
+    (left-unit-law-mul-hom-family-monad-Precategory C T)
+```
+
+## The Eilenberg-Moore precategory of a monad
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:698]: In agda-unimath, we operate on a "one concept per file", and this very much seems like a new concept, so I suggest you move this section to a new file called `category-theory.eilenberg-moore-precategory`

File: src/category-theory/monads-on-precategories.lagda.md [hunk 39]
```diff
@@ -301,17 +392,460 @@ module _
...
+  is-set-morphism-monad-algebra-Precategory :
+    (f g : monad-algebra-Precategory) →
+    is-set (morphism-monad-algebra-Precategory f g)
+  is-set-morphism-monad-algebra-Precategory f g =
+    is-set-Σ
+      (is-set-hom-Precategory C _ _)
+      (λ hk → is-set-is-prop (is-set-hom-Precategory C _ _ _ _))
+```
+
+## The Kleisli precategory of a monad
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:570]: In agda-unimath, we operate on a "one concept per file", and this very much seems like a new concept, so I suggest you move this section to a new file called `category-theory.kleisli-precategory`

File: src/category-theory/monads-on-precategories.lagda.md [hunk 40]
```diff
@@ -301,17 +392,460 @@ module _
...
+        functor-from-em-monad-Precategory
+        functor-to-em-monad-Precategory)
+  unit-em-monad-Precategory = unit-monad-Precategory C T
+
+  -- The counit is the vertical map given by the structure map of the algebra
+  --       μ
+  --   T²x → Tx
+  -- Ta ↓    ↓ a
+  --   Tx  → x
+  --       a
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:796]: We prefer to use literate coding features over agda comments. This can be formatted more nicely as

````suggestion
```

The counit is the vertical map given by the structure map of the algebra

```text
          μ
    T²x ----> Tx
     |         |
  Ta |         | a
     ∨         ∨
     Tx -----> x.
          a
```

```agda
````

(notice that we use the logical or symbol for downwards pointing arrow heads)

File: src/category-theory/monads-on-precategories.lagda.md [hunk 41]
```diff
@@ -301,17 +392,460 @@ module _
...
+      (comm-hom-morphism-monad-algebra-Precategory C T x y f)
+      (eq-is-prop (is-set-hom-Precategory C _ _ _ _)))
+
+  private
+    LR =
+      comp-functor-Precategory em-monad-Precategory C em-monad-Precategory
+        functor-to-em-monad-Precategory functor-from-em-monad-Precategory
+    RL =
+      comp-functor-Precategory C em-monad-Precategory C
+        functor-from-em-monad-Precategory functor-to-em-monad-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:816]: please inline these

**Comment by ben-connors** [comment]
I'm not planning on adding any more results to this PR, so as soon as I'm finished with the formatting I'm okay with merging it.

File: src/category-theory/eilenberg-moore-precategory.lagda.md
Comment (fredrik-bakke) [inline src/category-theory/eilenberg-moore-precategory.lagda.md:1]: My previous suggestion was slightly inaccurate. This file should be called `eilenberg-moore-precategories`. Sorry about that

File: src/category-theory/kleisli-precategory.lagda.md
Comment (fredrik-bakke) [inline src/category-theory/kleisli-precategory.lagda.md:1]: My previous suggestion was slightly inaccurate. This file should be called `kleisli-precategories`. Sorry about that

File: src/category-theory/kleisli-precategory.lagda.md [hunk 42]
```diff
@@ -0,0 +1,281 @@
...
+
+</details>
+
+## Idea
+
+The {{#concept "Kleisli precategory"}} of a
+[monad on a precategory](category-theory.monads-on-precategories) `T : C → C` is
+the precategory of free `T`-algebras and their morphisms; we view it as the
+precategory with the same objects as `C` but with morphisms `X → Y` the
+morphisms `X → TY` in `C`. Composition is given by:
```
Comment (fredrik-bakke) [inline src/category-theory/kleisli-precategory.lagda.md:31]: It's nice to see you're using our `#concept` macro! It has a couple of more fields you can set (currently undocumented, I believe):

```suggestion
The
{{#concept "Kleisli precategory" Disambiguation="of a monad on a precategory" Agda=kleisli-monad-Precategory WDID=Q1773982 WD="Kleisli category"}}
of a [monad on a precategory](category-theory.monads-on-precategories)
`T : C → C` is the precategory of free `T`-algebras and their morphisms; we view
it as the precategory with the same objects as `C` but with morphisms `X → Y`
the morphisms `X → TY` in `C`. Composition is given by:
```
- `Disambiguation` allows you to add context that might disambiguate the concept from other similar ones
- `Agda` allows you to add a pointer to the relevant Agda definition 
- `WD` is the name of the concept on Wikidata, a webpage we use to relate our concepts to what is elsewhere on the internet
- `WDID` is the Wikidata identifier of the concept: https://www.wikidata.org/wiki/Q1773982

**Comment by ben-connors** [comment]
Other than a couple little things, there are just two things left that I've commented on:
- Private definitions: I've seen these in some other places in the code; my main justification for using them here is that they hide a lot of noise from the proofs caused by Agda's difficulty inferring anything involving categories. I think the code is more readable with a couple private definitions right under the module declaration rather than trying to sift through a few sentences of typing data every time. This is especially true for anything involving natural transformations of compositions of functors, since you essentially have to write out every piece of the typing every time you want to use it.
- Eilenberg-Moore category: I think it's too long to write `eilenberg-moore` for `em` every time; does `algebras` as in `algebras-monad-Precategory` make sense? This would also make a bit more sense for the comonad case, since while it technically is still the Eilenberg-Moore category there I've never seen it called that and it feels a bit weird.

**Comment by fredrik-bakke** [comment]
Sorry for the delay in response @ben-connors. Certainly, we do not want to apply private definitions to the extent that you do, and I believe there are multiple reasons for this. Perhaps our documentation should be updated to cover this. As an alternative to private definitions, I recently proposed syntax modules: #1332. Could this be a satisfactory solution to the issue you're facing?

**Comment by fredrik-bakke** [comment]
Alternatively, there is also this partial solution to private definitions, as pointed out by @VojtechStep: https://github.com/UniMath/agda-unimath/issues/1332#issuecomment-2661558604

**Comment by fredrik-bakke** [comment]
> * Eilenberg-Moore category: I think it's too long to write `eilenberg-moore` for `em` every time; does `algebras` as in `algebras-monad-Precategory` make sense? This would also make a bit more sense for the comonad case, since while it technically is still the Eilenberg-Moore category there I've never seen it called that and it feels a bit weird.

I don't have an educated opinion on this, but `algebras-monad-Precategory` does sound more descriptive, which is nice. However, do note that we in general exercise some restraint in making up terminology. When possible and appropriate, we try to be consistent with established terminology in the literature, bearing in mind that every name is in the global namespace, hence we must also avoid overlap in naming. With that said, your proposal seems sensible and so I wouldn't be against it. One question to ask is whether the concept corresponds to an "algebra" or a "coalgebra" though.

When it comes to `eilenberg-moore` vs `em`, let me quote our [coding style document](https://unimath.github.io/agda-unimath/CODINGSTYLE.html):
> While abbreviations might seem like a good way to shorten names, we use them sparingly. They might save a couple of keystrokes for the author, but in the grand scheme of things, they will likely compromise readability and maintainability, especially for newcomers and maintainers. We aim for clarity, not brevity.

**Comment by ben-connors** [comment]
Yes, "category of algebras" for Eilenberg-Moore and "category of free algebras" for Kleisli are both standard.

> Alternatively, there is also this partial solution to private definitions, as pointed out by @VojtechStep: [#1332 (comment)](https://github.com/UniMath/agda-unimath/issues/1332#issuecomment-2661558604)

This works perfectly, thanks!

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 43]
```diff
@@ -0,0 +1,282 @@
...
+```
+
+It comes with functors to and from `C` which form an adjoint pair; the
+composition recovers the original monad.
+
+```agda
+module _
+  {l1 l2 : Level} {C : Precategory l1 l2}
+  (T : monad-Precategory C)
+  (let Tf = endofunctor-monad-Precategory C T)
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]: Since you do not use this alias

```suggestion
```

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 44]
```diff
@@ -0,0 +1,314 @@
...
+{{#concept "category of algebras" Disambiguation="of a monad on a precategory" Agda=algebras-monad-Precategory}}
+of a [monad on a precategory](category-theory.monads-on-precategories) `T`,
+denoted `EM(T)`, also called the Eilenberg-Moore category, consists of all
+`T`-algebras and `T`-algebra morphisms. It comes with an adjunction `C ⇄ EM(T)`.
+
+```agda
+module _
+  {l1 l2 : Level} (C : Precategory l1 l2)
+  (T : monad-Precategory C)
+  (let Tf = endofunctor-monad-Precategory C T)
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]: Since you do not use this alias

```suggestion
```

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 45]
```diff
@@ -0,0 +1,314 @@
...
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "category of algebras" Disambiguation="of a monad on a precategory" Agda=algebras-monad-Precategory}}
+of a [monad on a precategory](category-theory.monads-on-precategories) `T`,
+denoted `EM(T)`, also called the Eilenberg-Moore category, consists of all
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]: Names are separated by an en dash :)

```suggestion
denoted `EM(T)`, also called the **Eilenberg–Moore precategory**, consists of all
```

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 46]
```diff
@@ -0,0 +1,314 @@
+# The Eilenberg-Moore precategory
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]:
```suggestion
# The Eilenberg–Moore precategory
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 47]
```diff
@@ -0,0 +1,298 @@
...
+## Idea
+
+Let `C` and `D` be two [precategories](category-theory.precategories.md). Two
+[functors](category-theory.functors-precategories.md) `L : C → D` and
+`R : D → C` constitute an **adjoint pair** if
+
+- for each pair of objects `X` in `C` and `Y` in `D`, there is an
+  [equivalence](foundation-core.equivalences.md)
+  `ϕ X Y : hom (L X) Y ≃ hom X (R Y)` such that
+- for every pair of morhpisms `f : X₂ → X₁` and `g : Y₁ → Y₂` the following
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md]:
```suggestion
- for every pair of morphisms `f : X₂ → X₁` and `g : Y₁ → Y₂` the following
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 48]
```diff
@@ -0,0 +1,298 @@
...
+  module _
+    (η : natural-transformation-Precategory C C idC RL)
+    (ε : natural-transformation-Precategory D D LR idD)
+    (let η₀ = hom-family-natural-transformation-Precategory C C idC RL η)
+    (let ε₀ = hom-family-natural-transformation-Precategory D D LR idD ε)
+    (let L₀ = obj-functor-Precategory C D L)
+    (let L₁ = hom-functor-Precategory C D L)
+    (let R₀ = obj-functor-Precategory D C R)
+    (let R₁ = hom-functor-Precategory D C R)
+    where
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md]: @EgbertRijke @VojtechStep It would be nice to get some input from you before I merge this sort of code (as an alternative to private definitions)

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 49]
```diff
@@ -0,0 +1,298 @@
...
+
+    has-left-triangle-identity-Precategory : UU (l1 ⊔ l4)
+    has-left-triangle-identity-Precategory =
+      (x : obj-Precategory C) →
+      ( comp-hom-Precategory D
+        ( ε₀ (L₀ x))
+        ( L₁ (η₀ x))) ＝
+      ( id-hom-Precategory D)
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md]:
```suggestion
      comp-hom-Precategory D (ε₀ (L₀ x)) (L₁ (η₀ x)) ＝ id-hom-Precategory D
```

Comment (fredrik-bakke) [reply src/category-theory/adjunctions-precategories.lagda.md]: Or, I suppose, if you think it is more readable in its current state, feel free to leave it as is.

File: src/category-theory/algebras-monads-precategories.lagda.md (hunk 46 above)
Comment (fredrik-bakke) [reply src/category-theory/algebras-monads-precategories.lagda.md]: Also, considering you've renamed the file to `algebras-monads-precategories`, you might also wish to change the header, although that is not strictly required seeing as the terms are meant to be used as synonyms.

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 50]
```diff
@@ -0,0 +1,314 @@
...
+open import foundation-core.propositions
+open import foundation-core.transport-along-identifications
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "category of algebras" Disambiguation="of a monad on a precategory" Agda=algebras-monad-Precategory}}
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]:
```suggestion
{{#concept "precategory of algebras" Disambiguation="of a monad on a precategory" Agda=algebras-monad-Precategory}}
```

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 51]
```diff
@@ -0,0 +1,314 @@
...
+        ( functor-to-algebras-monad-Precategory)
+        ( functor-from-algebras-monad-Precategory))
+      ( id-functor-Precategory algebras-monad-Precategory)
+  counit-algebras-monad-Precategory =
+    ( λ x →
+      ( hom-monad-algebra-Precategory C T x) ,
+      ( inv (mul-law-monad-algebra-Precategory C T x))) ,
+    ( λ {x} {y} f → eq-pair-Σ
+      ( comm-hom-morphism-monad-algebra-Precategory C T x y f)
+      ( eq-is-prop (is-set-hom-Precategory C _ _ _ _)))
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]:
```suggestion
    ( λ {x} {y} f →
      eq-pair-Σ
        ( comm-hom-morphism-monad-algebra-Precategory C T x y f)
        ( eq-is-prop (is-set-hom-Precategory C _ _ _ _)))
```

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 52]
```diff
@@ -0,0 +1,282 @@
...
+    ( comp-hom-free-algebras-monad-Precategory
+      ( comp-hom-free-algebras-monad-Precategory h g)
+      ( f)) ＝
+    ( comp-hom-free-algebras-monad-Precategory
+      ( h)
+      ( comp-hom-free-algebras-monad-Precategory g f))
+  associative-comp-hom-free-algebras-monad-Precategory h g f =
+    ap
+      ( precomp-hom-Precategory C f _)
+      ( (ap
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
      ( ( ap
```

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 53]
```diff
@@ -0,0 +1,282 @@
...
+          ( postcomp-hom-Precategory C (μ _) _)
+          ( (preserves-comp-endofunctor-monad-Precategory C T _ g) ∙
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
          ( ( preserves-comp-endofunctor-monad-Precategory C T _ g) ∙
```

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 54]
```diff
@@ -0,0 +1,282 @@
...
+              ( preserves-comp-endofunctor-monad-Precategory C T _ _)) ∙
+            ( associative-comp-hom-Precategory C _ _ _))) ∙
+        ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
+        ( ap
+          ( precomp-hom-Precategory C _ _)
+          ( associative-mul-hom-family-monad-Precategory C T _)) ∙
+        ( associative-comp-hom-Precategory C _ _ _) ∙
+        ( ap
+          ( postcomp-hom-Precategory C (μ _) _)
+          ( (inv (associative-comp-hom-Precategory C _ _ _)) ∙
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
          ( ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
```

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 55]
```diff
@@ -0,0 +1,282 @@
...
+        ( ap
+          ( precomp-hom-Precategory C (T₁ f) _)
+          ( ( inv (left-unit-law-comp-hom-Precategory C _)) ∙
+            ( ap
+              ( precomp-hom-Precategory C (T₁ g) _)
+              ( inv (left-unit-law-mul-hom-family-monad-Precategory C T z))) ∙
+            ( associative-comp-hom-Precategory C _ _ _) ∙
+            ( ap
+              ( postcomp-hom-Precategory C (μ z) _)
+              ( (inv
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
              ( ( inv
```

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 56]
```diff
@@ -0,0 +1,282 @@
...
+                  (preserves-comp-endofunctor-monad-Precategory C T
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
                  ( preserves-comp-endofunctor-monad-Precategory C T
```

File: src/category-theory/natural-transformations-functors-precategories.lagda.md [hunk 57]
```diff
@@ -222,6 +222,17 @@ module _
     eq-htpy-hom-family-natural-transformation-map-Precategory C D
       ( map-functor-Precategory C D F)
       ( map-functor-Precategory C D G)
+
+  -- Agda seems to be able to infer α and β without issue
```
Comment (fredrik-bakke) [inline src/category-theory/natural-transformations-functors-precategories.lagda.md]: Not sure if this comment was intended for a reviewer or whether you intended for it to stay, but we generally avoid using code comments, and instead prefer using the literate features of the literate agda file format.
```suggestion
```

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 58]
```diff
@@ -0,0 +1,314 @@
...
+
+  obj-functor-to-algebras-monad-Precategory :
+    obj-Precategory C → obj-Precategory algebras-monad-Precategory
+  obj-functor-to-algebras-monad-Precategory x =
+    ( obj-endofunctor-monad-Precategory C T x) ,
+    ( ( hom-mul-monad-Precategory C T x) ,
+      ( right-unit-law-mul-hom-family-monad-Precategory C T x) ,
+      ( associative-mul-hom-family-monad-Precategory C T x))
+
+  hom-functor-to-algebras-monad-Precategory : {x y : obj-Precategory C}
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]:
```suggestion
  hom-functor-to-algebras-monad-Precategory :
    {x y : obj-Precategory C}
```

File: src/category-theory/monads-on-precategories.lagda.md [hunk 59]
```diff
@@ -301,17 +392,183 @@ module _
...
+        ( pointed-endofunctor-monad-Precategory)
+        ( mul-monad-Precategory)
+    right-unit-law-mul-hom-family-monad-Precategory =
+      htpy-eq-hom-family-natural-transformation-Precategory C C
+        ( endofunctor-monad-Precategory)
+        ( endofunctor-monad-Precategory)
+        ( right-unit-law-mul-monad-Precategory)
+```
+
+## Algebras over a monad
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:444]: Is this different to the contents of `algebras-monads-precategories`? Regardless, this should not live in this file.

Comment (fredrik-bakke) [reply src/category-theory/monads-on-precategories.lagda.md:444]: Ah, I see now. This should be the contents of the file `algebras-monads-precategories` while the current contents of `algebras-monads-precategories` should be in `precategory-of-algebras-monads-precategories`

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 60]
```diff
@@ -0,0 +1,314 @@
...
+  functor-to-algebras-monad-Precategory :
+    functor-Precategory C algebras-monad-Precategory
+  functor-to-algebras-monad-Precategory =
+    ( obj-functor-to-algebras-monad-Precategory) ,
+    ( hom-functor-to-algebras-monad-Precategory) ,
+    ( preserves-comp-functor-to-algebras-monad-Precategory) ,
+    ( preserves-id-functor-to-algebras-monad-Precategory)
+
+  obj-functor-from-algebras-monad-Precategory :
+    obj-Precategory algebras-monad-Precategory → obj-Precategory C
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]:
```suggestion
    obj-algebras-monad-Precategory → obj-Precategory C
```

File: src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md [hunk 61]
```diff
@@ -47,4 +49,29 @@ coherence-square-hom-Precategory :
   UU l2
 coherence-square-hom-Precategory C =
   coherence-square-hom-Set-Magmoid (set-magmoid-Precategory C)
+
+comp-coherence-square-hom-Precategory :
```
Comment (fredrik-bakke) [inline src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md]: This should be named `pasting-horizontal-coherence-square-hom-Precategory`, to disambiguate from other notions of composition of squares. You can reference https://unimath.github.io/agda-unimath/foundation-core.commuting-squares-of-maps.html for inspiration for names of the other notions as well.

File: src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md [hunk 62]
```diff
@@ -47,4 +49,29 @@ coherence-square-hom-Precategory :
...
+  {l1 l2 : Level} (C : Precategory l1 l2)
+  {x y z w a b : obj-Precategory C}
+  (topleft : hom-Precategory C x y)
+  (left : hom-Precategory C x z)
+  (middle : hom-Precategory C y w)
+  (bottomleft : hom-Precategory C z w)
+  (topright : hom-Precategory C y a)
+  (right : hom-Precategory C a b)
+  (bottomright : hom-Precategory C w b) →
```
Comment (fredrik-bakke) [inline src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md]: To keep definitions consistent with eachother, the edges should appear in diagrammatic order:
```suggestion
  (topleft : hom-Precategory C x y)
  (topright : hom-Precategory C y a)
  (left : hom-Precategory C x z)
  (middle : hom-Precategory C y w)
  (right : hom-Precategory C a b)
  (bottomleft : hom-Precategory C z w)
  (bottomright : hom-Precategory C w b) →
```

Comment (fredrik-bakke) [reply src/category-theory/commuting-squares-of-morphisms-in-precategories.lagda.md]: I.e. read from left-to-right then top-to-bottom

File: src/category-theory/monads-on-precategories.lagda.md [hunk 63]
```diff
@@ -301,17 +392,183 @@ module _
...
+    has-mul-law-monad-algebra-Precategory =
+      comp-hom-Precategory C a (hom-endofunctor-monad-Precategory C T a) ＝
+      comp-hom-Precategory C a (hom-mul-monad-Precategory C T A)
+
+    is-monad-algebra-Precategory : UU l2
+    is-monad-algebra-Precategory =
+      has-unit-law-monad-algebra-Precategory ×
+      has-mul-law-monad-algebra-Precategory
+
+  monad-algebra-Precategory : UU (l1 ⊔ l2)
```
Comment (fredrik-bakke) [inline src/category-theory/monads-on-precategories.lagda.md:472]: The appropriate name for this entry should be of the form `algebra-monad-Precategory` (read: "an algebra of a monad on a precategory"), which appropriately decreases in specificity from left to right.

File: src/category-theory/algebras-monads-precategories.lagda.md [hunk 64]
```diff
@@ -0,0 +1,314 @@
...
+      ( f)
+      ( id-hom-algebras-monad-Precategory a)) ＝
+    ( f)
+  right-unit-law-comp-hom-algebras-monad-Precategory a b f =
+    eq-pair-Σ
+      ( right-unit-law-comp-hom-Precategory C
+        ( hom-morphism-monad-algebra-Precategory C T a b f))
+      ( eq-is-prop (is-set-hom-Precategory C _ _ _ _))
+
+  algebras-monad-Precategory : Precategory (l1 ⊔ l2) l2
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-precategories.lagda.md]: I am not entirely sure about this name for the precategory of algebras on a monad in a precategory, although I don't immediately hate it. One naming scheme that was discussed recently suggests the name `precategory-of-algebras-monad-Precategory`, although there are a few different naming schemes that appear in the library when it comes to categories of certain structures. I suppose your current name can stand for now, but a naming change might be necessitated in the future.

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 65]
```diff
@@ -0,0 +1,281 @@
+# The Free-algebras precategory of a monad
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
# The free algebras precategory of a monad
```

File: src/category-theory/free-algebras-monads-precategories.lagda.md [hunk 66]
```diff
@@ -0,0 +1,281 @@
...
+            ( associative-comp-hom-Precategory C _ _ _))) ∙
+        ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
+        ( ap
+          ( precomp-hom-Precategory C _ _)
+          ( associative-mul-hom-family-monad-Precategory C T _)) ∙
+        ( associative-comp-hom-Precategory C _ _ _) ∙
+        ( ap
+          ( postcomp-hom-Precategory C (μ _) _)
+          ( (inv (associative-comp-hom-Precategory C _ _ _)) ∙
+            (ap
```
Comment (fredrik-bakke) [inline src/category-theory/free-algebras-monads-precategories.lagda.md]:
```suggestion
            ( ap
```

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 67]
```diff
@@ -0,0 +1,295 @@
...
+        ( ap
+          ( precomp-hom-Precategory C f _)
+          ( associative-comp-hom-Precategory C _ _ _))
+
+      is-adjoint-pair-unit-counit-Precategory :
+        is-adjoint-pair-Precategory C D L R
+      pr1 is-adjoint-pair-unit-counit-Precategory =
+        equiv-family-unit-counit-Precategory
+      pr2 is-adjoint-pair-unit-counit-Precategory =
+        naturality-equiv-family-unit-counit-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md]: Your module usage in this section is getting a bit out of hand, making it hard to trace what variables are relevant in what definitions, and also leading to excessive indentation. As a rule of thumb, I tend to try and avoid having nested anonymous modules, although here I think a single nested module is warranted. What I would recommend instead here is to merge modules that are possible to merge, and close and reopen the inner module as I've done below.

In addition, the suggestion contains a refactored definition of `section-sharp-unit-counit-Precategory` and `retraction-sharp-unit-counit-Precategory`, to keep the individual definitions smaller. Note that since the section map and retraction map are the same in your case, the more idiomatic (and convenient) way to construct `is-equiv-sharp-unit-counit-Precategory` is to use the definition `is-equiv-is-invertible`, although you're certainly also welcome to define the section and retraction as well. Observe that using `is-equiv-is-invertible` gives an extra guarantee to the reader of your code about how the inverse map behaves.


```suggestion
module _
  {l1 l2 l3 l4 : Level}
  (C : Precategory l1 l2)
  (D : Precategory l3 l4)
  (L : functor-Precategory C D)
  (R : functor-Precategory D C)
  (let LR = comp-functor-Precategory D C D L R)
  (let RL = comp-functor-Precategory C D C R L)
  (let idC = id-functor-Precategory C)
  (let idD = id-functor-Precategory D)
  (η : natural-transformation-Precategory C C idC RL)
  (ε : natural-transformation-Precategory D D LR idD)
  (let η₀ = hom-family-natural-transformation-Precategory C C idC RL η)
  (let ε₀ = hom-family-natural-transformation-Precategory D D LR idD ε)
  (let L₀ = obj-functor-Precategory C D L)
  (let L₁ = hom-functor-Precategory C D L)
  (let R₀ = obj-functor-Precategory D C R)
  (let R₁ = hom-functor-Precategory D C R)
  where

  has-left-triangle-identity-Precategory : UU (l1 ⊔ l4)
  has-left-triangle-identity-Precategory =
    (x : obj-Precategory C) →
    comp-hom-Precategory D (ε₀ (L₀ x)) (L₁ (η₀ x)) ＝ id-hom-Precategory D

  has-right-triangle-identity-Precategory : UU (l2 ⊔ l3)
  has-right-triangle-identity-Precategory =
    (y : obj-Precategory D) →
    ( comp-hom-Precategory C
      ( R₁ (ε₀ y))
      ( η₀ (R₀ y))) ＝
    ( id-hom-Precategory C)

  module _
    (lt : has-left-triangle-identity-Precategory)
    (rt : has-right-triangle-identity-Precategory)
    (x : obj-Precategory C) (y : obj-Precategory D)
    where

    map-sharp-unit-counit-Precategory :
      hom-Precategory D (L₀ x) y →
      hom-Precategory C x (R₀ y)
    map-sharp-unit-counit-Precategory g =
      comp-hom-Precategory C (R₁ g) (η₀ x)

    map-flat-unit-counit-Precategory :
      hom-Precategory C x (R₀ y) →
      hom-Precategory D (L₀ x) y
    map-flat-unit-counit-Precategory f =
      comp-hom-Precategory D (ε₀ y) (L₁ f)

    is-section-map-flat-unit-counit-Precategory :
      is-section
        map-sharp-unit-counit-Precategory
        map-flat-unit-counit-Precategory
    is-section-map-flat-unit-counit-Precategory f =
      ( ap
        ( precomp-hom-Precategory C (η₀ x) _)
        ( preserves-comp-functor-Precategory D C R (ε₀ y) (L₁ f))) ∙
      ( associative-comp-hom-Precategory C (R₁ (ε₀ y)) (R₁ (L₁ f)) (η₀ x)) ∙
      ( ap
        ( postcomp-hom-Precategory C (R₁ (ε₀ y)) _)
        ( naturality-natural-transformation-Precategory C C
          ( id-functor-Precategory C) RL η f)) ∙
      ( inv
        ( associative-comp-hom-Precategory C (R₁ (ε₀ y)) (η₀ (R₀ y)) f)) ∙
      ( ap (precomp-hom-Precategory C f _) (rt y)) ∙
      ( left-unit-law-comp-hom-Precategory C f)

    is-retraction-map-flat-unit-counit-Precategory :
      is-retraction
        map-sharp-unit-counit-Precategory
        map-flat-unit-counit-Precategory
    is-retraction-map-flat-unit-counit-Precategory g =
      ( ap
        ( postcomp-hom-Precategory D (ε₀ y) _)
        ( preserves-comp-functor-Precategory C D L (R₁ g) (η₀ x))) ∙
      ( inv
        ( associative-comp-hom-Precategory D
          ( ε₀ y)
          ( L₁ (R₁ g))
          ( L₁ (η₀ x)))) ∙
      ( ap
        ( precomp-hom-Precategory D (L₁ (η₀ x)) _)
        ( inv
          ( naturality-natural-transformation-Precategory D D
            ( LR)
            ( id-functor-Precategory D) ε g))) ∙
      ( associative-comp-hom-Precategory D g (ε₀ (L₀ x)) (L₁ (η₀ x))) ∙
      ( ap (postcomp-hom-Precategory D g _) (lt x)) ∙
      ( right-unit-law-comp-hom-Precategory D g)

    section-sharp-unit-counit-Precategory :
      section map-sharp-unit-counit-Precategory
    section-sharp-unit-counit-Precategory =
      ( map-flat-unit-counit-Precategory ,
        is-section-map-flat-unit-counit-Precategory)

    retraction-sharp-unit-counit-Precategory :
      retraction map-sharp-unit-counit-Precategory
    retraction-sharp-unit-counit-Precategory =
      ( map-flat-unit-counit-Precategory ,
        is-retraction-map-flat-unit-counit-Precategory)

    is-equiv-sharp-unit-counit-Precategory :
      is-equiv map-sharp-unit-counit-Precategory
    is-equiv-sharp-unit-counit-Precategory =
      ( section-sharp-unit-counit-Precategory ,
        retraction-sharp-unit-counit-Precategory)

  module _
    (lt : has-left-triangle-identity-Precategory)
    (rt : has-right-triangle-identity-Precategory)
    where

    equiv-family-unit-counit-Precategory :
      family-of-equivalences-adjoint-pair-Precategory C D L R
    equiv-family-unit-counit-Precategory x y =
      ( map-sharp-unit-counit-Precategory lt rt x y ,
        is-equiv-sharp-unit-counit-Precategory lt rt x y)

    naturality-equiv-family-unit-counit-Precategory :
      naturality-family-of-equivalences-adjoint-pair-Precategory C D L R
        equiv-family-unit-counit-Precategory
    naturality-equiv-family-unit-counit-Precategory
      {x1} {x2} {y1} {y2} f g h =
      ( ap
        ( precomp-hom-Precategory C (η₀ x2) _)
        ( ( preserves-comp-functor-Precategory D C R
            ( comp-hom-Precategory D g h)
            ( L₁ f)) ∙
          ( ap
            ( precomp-hom-Precategory C (R₁ (L₁ f)) _)
            ( preserves-comp-functor-Precategory D C R g h)))) ∙
      ( associative-comp-hom-Precategory C _ (R₁ (L₁ f)) (η₀ x2)) ∙
      ( ap
        ( postcomp-hom-Precategory C _ _)
        ( naturality-natural-transformation-Precategory C C idC RL η f)) ∙
      ( inv (associative-comp-hom-Precategory C _ (η₀ x1) f)) ∙
      ( ap
        ( precomp-hom-Precategory C f _)
        ( associative-comp-hom-Precategory C _ _ _))

    is-adjoint-pair-unit-counit-Precategory :
      is-adjoint-pair-Precategory C D L R
    is-adjoint-pair-unit-counit-Precategory =
      ( equiv-family-unit-counit-Precategory ,
        naturality-equiv-family-unit-counit-Precategory)
```

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md [hunk 68]
```diff
@@ -0,0 +1,329 @@
...
+## Idea
+
+The
+{{#concept "precategory of algebras" Disambiguation="of a monad on a precategory" Agda=algebras-monad-Precategory}}
+of a [monad on a precategory](category-theory.monads-on-precategories) `T`,
+denoted `EM(T)`, also called the **Eilenberg–Moore precategory**, consists of
+all `T`-algebras and `T`-algebra morphisms. It comes with an adjunction
+`C ⇄ EM(T)`.
+
+```agda
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md:46]:
````suggestion

## Definitions

```agda
````

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md [hunk 69]
```diff
@@ -0,0 +1,329 @@
...
+      ( λ {a} {b} f → left-unit-law-comp-hom-algebras-monad-Precategory a b f)
+      ( λ {a} {b} f → right-unit-law-comp-hom-algebras-monad-Precategory a b f)
+```
+
+## Properties
+
+### Free functor from the underlying category
+
+```agda
+  obj-functor-to-algebras-monad-Precategory :
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md]: Whenever a new markdown section is opened, we also close (and potentially reopen) any anonymous modules within the previous section. This is to make the individual sections more self-contained, making it easier for a reader of your code to understand a subsection without keeping the entire file in their working memory.

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md [hunk 70]
```diff
@@ -0,0 +1,329 @@
...
+    ( obj-functor-to-algebras-monad-Precategory) ,
+    ( hom-functor-to-algebras-monad-Precategory) ,
+    ( preserves-comp-functor-to-algebras-monad-Precategory) ,
+    ( preserves-id-functor-to-algebras-monad-Precategory)
+```
+
+### Forgetful functor from the underlying precategory
+
+```agda
+  obj-functor-from-algebras-monad-Precategory :
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md]: Close and reopen the module. See my previous comment

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md [hunk 71]
```diff
@@ -0,0 +1,329 @@
...
+    ( preserves-id-functor-from-algebras-monad-Precategory)
+```
+
+### Adjunction with the underlying category
+
+The unit of the adjunction between these two functors is exactly the unit of the
+monad.
+
+```agda
+  unit-algebras-monad-Precategory :
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md]: Close and reopen the module. See my previous comment.

File: src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md [hunk 72]
```diff
@@ -0,0 +1,292 @@
...
+      ( left-unit-law-comp-hom-free-algebras-monad-Precategory)
+      ( right-unit-law-comp-hom-free-algebras-monad-Precategory)
+```
+
+## Properties
+
+### Free functor from the underlying category
+
+```agda
+  obj-functor-to-free-algebras-monad-Precategory :
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md]: Close and reopen the module. See my previous comment.

File: src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md [hunk 73]
```diff
@@ -0,0 +1,292 @@
...
+    ( obj-functor-to-free-algebras-monad-Precategory) ,
+    ( hom-functor-to-free-algebras-monad-Precategory) ,
+    ( preserves-comp-functor-to-free-algebras-monad-Precategory) ,
+    ( preserves-id-functor-to-free-algebras-monad-Precategory)
+```
+
+### Forgetful functor to the underlying category
+
+```agda
+  obj-functor-from-free-algebras-monad-Precategory :
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md]: Close and reopen the module. See my previous comment.

File: src/category-theory/algebras-monads-on-precategories.lagda.md [hunk 74]
```diff
@@ -0,0 +1,166 @@
...
+
+An
+{{#concept "algebra over a monad" Disambiguation="on a precategory" Agda=algebra-monad-Precategory}}
+over a [monad](category-theory.monads-on-precategories.md) `T` consists of an
+object `A` and morphism `a : TA → A` satisfying two compatibility laws:
+
+- **Unit law**: `a ∘ η_A = id_A`
+- **Multiplication law**: `a ∘ Ta = a ∘ μ_A`
+
+```agda
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-on-precategories.lagda.md]:
````suggestion
- **Multiplication law**: `a ∘ Ta = a ∘ μ_A`

## Definitions

### Algebras over a monad

```agda
````

File: src/category-theory/adjunctions-precategories.lagda.md [hunk 75]
```diff
@@ -0,0 +1,295 @@
...
+              |                       |
+              ∨                       ∨
+        hom (L X₂) Y₂ --------> hom X₂ (R Y₂)
+                       ϕ X₂ Y₂
+```
+
+In this case we say that `L` is **left adjoint** to `R` and `R` is **right
+adjoint** to `L`, and write this as `L ⊣ R`.
+
+## Definition
```
Comment (fredrik-bakke) [inline src/category-theory/adjunctions-precategories.lagda.md]:
```suggestion
## Definitions
```

File: src/category-theory/algebras-monads-on-precategories.lagda.md [hunk 76]
```diff
@@ -0,0 +1,166 @@
...
+  morphism-algebra-monad-Precategory f g =
+    Σ ( hom-Precategory C
+        ( obj-algebra-monad-Precategory f)
+        ( obj-algebra-monad-Precategory g))
+      ( λ h →
+        coherence-square-hom-Precategory C
+          ( hom-endofunctor-monad-Precategory C T h)
+          ( hom-algebra-monad-Precategory f)
+          ( hom-algebra-monad-Precategory g)
+          ( h))
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-on-precategories.lagda.md]: This coherence should be given an individual definition so it can be referenced by name. E.g.

```suggestion
  coherence-morphism-algebra-monad-Precategory :
    (f g : algebra-monad-Precategory) →
    hom-Precategory C
      ( obj-algebra-monad-Precategory f)
      ( obj-algebra-monad-Precategory g) →
    UU l2
  coherence-morphism-algebra-monad-Precategory f g h =
    coherence-square-hom-Precategory C
      ( hom-endofunctor-monad-Precategory C T h)
      ( hom-algebra-monad-Precategory f)
      ( hom-algebra-monad-Precategory g)
      ( h)

  morphism-algebra-monad-Precategory : (f g : algebra-monad-Precategory) → UU l2
  morphism-algebra-monad-Precategory f g =
    Σ ( hom-Precategory C
        ( obj-algebra-monad-Precategory f)
        ( obj-algebra-monad-Precategory g))
      ( coherence-morphism-algebra-monad-Precategory f g)
```

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md [hunk 77]
```diff
@@ -0,0 +1,329 @@
...
+  id-hom-algebras-monad-Precategory x =
+    ( id-hom-Precategory C) ,
+    ( left-unit-law-comp-hom-Precategory C
+      ( hom-algebra-monad-Precategory C T x)) ∙
+    ( inv
+      ( right-unit-law-comp-hom-Precategory C
+        ( hom-algebra-monad-Precategory C T x))) ∙
+    ( ap
+      ( postcomp-hom-Precategory C _ _)
+      ( inv (preserves-id-endofunctor-monad-Precategory C T _)))
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md]: After my previous suggestion has been implemented, this can be refactored to

```suggestion
  coh-id-hom-algebras-monad-Precategory :
    (x : obj-algebras-monad-Precategory) →
    coherence-morphism-algebra-monad-Precategory C T x x (id-hom-Precategory C)
  coh-id-hom-algebras-monad-Precategory x =
    ( left-unit-law-comp-hom-Precategory C
      ( hom-algebra-monad-Precategory C T x)) ∙
    ( inv
      ( right-unit-law-comp-hom-Precategory C
        ( hom-algebra-monad-Precategory C T x))) ∙
    ( ap
      ( postcomp-hom-Precategory C _ _)
      ( inv (preserves-id-endofunctor-monad-Precategory C T _)))

  id-hom-algebras-monad-Precategory :
    (x : obj-algebras-monad-Precategory) →
    hom-algebras-monad-Precategory x x
  id-hom-algebras-monad-Precategory x =
    ( id-hom-Precategory C , coh-id-hom-algebras-monad-Precategory x)
```

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md [hunk 78]
```diff
@@ -0,0 +1,329 @@
...
+
+  associative-comp-hom-algebras-monad-Precategory :
+    (x y z w : obj-algebras-monad-Precategory)
+    (h : hom-algebras-monad-Precategory z w)
+    (g : hom-algebras-monad-Precategory y z)
+    (f : hom-algebras-monad-Precategory x y) →
+    (comp-hom-algebras-monad-Precategory x y w
+      ( comp-hom-algebras-monad-Precategory y z w h g)
+      ( f)) ＝
+    (comp-hom-algebras-monad-Precategory x z w
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md]:
```suggestion
    ( comp-hom-algebras-monad-Precategory x y w
      ( comp-hom-algebras-monad-Precategory y z w h g)
      ( f)) ＝
    ( comp-hom-algebras-monad-Precategory x z w
```

File: src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md [hunk 79]
```diff
@@ -0,0 +1,292 @@
...
+          ( associative-mul-hom-family-monad-Precategory C T _)) ∙
+        ( associative-comp-hom-Precategory C _ _ _) ∙
+        ( ap
+          ( postcomp-hom-Precategory C (μ _) _)
+          ( ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
+            ( ap
+              ( precomp-hom-Precategory C (T₁ g) _)
+              ( inv (naturality-mul-monad-Precategory C T h))) ∙
+            ( associative-comp-hom-Precategory C _ _ _))) ∙
+        ( inv (associative-comp-hom-Precategory C _ _ _))) ∙
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md]:
```suggestion
    ( ap
      ( precomp-hom-Precategory C f _)
      ( ( ap
          ( postcomp-hom-Precategory C (μ _) _)
          ( ( preserves-comp-endofunctor-monad-Precategory C T _ g) ∙
            ( ap
              ( precomp-hom-Precategory C (T₁ g) _)
              ( preserves-comp-endofunctor-monad-Precategory C T _ _)) ∙
            ( associative-comp-hom-Precategory C _ _ _))) ∙
        ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
        ( ap
          ( precomp-hom-Precategory C _ _)
          ( associative-mul-hom-family-monad-Precategory C T _)) ∙
        ( associative-comp-hom-Precategory C _ _ _) ∙
        ( ap
          ( postcomp-hom-Precategory C (μ _) _)
          ( ( inv (associative-comp-hom-Precategory C _ _ _)) ∙
            ( ap
              ( precomp-hom-Precategory C (T₁ g) _)
              ( inv (naturality-mul-monad-Precategory C T h))) ∙
            ( associative-comp-hom-Precategory C _ _ _))) ∙
        ( inv (associative-comp-hom-Precategory C _ _ _)))) ∙
```

File: src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md [hunk 80]
```diff
@@ -0,0 +1,292 @@
...
+      ( right-unit-law-comp-hom-free-algebras-monad-Precategory)
+```
+
+## Properties
+
+### Free functor from the underlying category
+
+```agda
+  obj-functor-to-free-algebras-monad-Precategory :
+    (obj-Precategory C) → obj-free-algebras-monad-Precategory
```
Comment (fredrik-bakke) [inline src/category-theory/precategory-of-free-algebras-monads-on-precategories.lagda.md]:
```suggestion
    obj-Precategory C → obj-free-algebras-monad-Precategory
```

File: src/category-theory/algebras-monads-on-precategories.lagda.md [hunk 81]
```diff
@@ -0,0 +1,166 @@
...
+    has-unit-law-algebra-monad-Precategory (hom-algebra-monad-Precategory f)
+  unit-law-algebra-monad-Precategory f = pr1 (pr2 (pr2 f))
+
+  mul-law-algebra-monad-Precategory :
+    (f : algebra-monad-Precategory) →
+    has-mul-law-algebra-monad-Precategory (hom-algebra-monad-Precategory f)
+  mul-law-algebra-monad-Precategory f = pr2 (pr2 (pr2 f))
+
+  morphism-algebra-monad-Precategory : (f g : algebra-monad-Precategory) → UU l2
+  morphism-algebra-monad-Precategory f g =
```
Comment (fredrik-bakke) [inline src/category-theory/algebras-monads-on-precategories.lagda.md]: Conventionally, we put the concept of morphisms of a given structure in a new file, in your case call it `morphisms-algebras-monads-on-precategories`.

Comment (fredrik-bakke) [reply src/category-theory/algebras-monads-on-precategories.lagda.md]: I'll give you a break if you cannot be bothered with this, but at least open a new subsection

````suggestion
```

### Morphisms of algebras

```agda
module _
  {l1 l2 : Level} (C : Precategory l1 l2)
  (T : monad-Precategory C)
  where

  morphism-algebra-monad-Precategory : (f g : algebra-monad-Precategory C T) → UU l2
  morphism-algebra-monad-Precategory f g =
````

File: src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md (hunk 69 above)
Comment (fredrik-bakke) [reply src/category-theory/precategory-of-algebras-monads-on-precategories.lagda.md]: E.g.

````suggestion
### Free functor from the underlying category

```agda
module _
  {l1 l2 : Level} (C : Precategory l1 l2)
  (T : monad-Precategory C)
  (let T₁ = hom-endofunctor-monad-Precategory C T)
  (let T₀ = obj-endofunctor-monad-Precategory C T)
  where

  obj-functor-to-algebras-monad-Precategory :
````

**Comment by ben-connors** [comment]
That should do it---I broke off the monad algebra morphisms into a separate file. The `link-check` that failed earlier should work now too, I was missing `.md` on a few links.

>coauthor

Sounds good to me! How do I add you?

File: src/category-theory/morphisms-algebras-monads-on-precategories.lagda.md [hunk 82]
```diff
@@ -0,0 +1,120 @@
...
+open import foundation.identity-types
+open import foundation.sets
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+An
```
Comment (fredrik-bakke) [inline src/category-theory/morphisms-algebras-monads-on-precategories.lagda.md]:
```suggestion
A
```

**Comment by fredrik-bakke** [comment]
> Sounds good to me! How do I add you?

Great! You've already inadvertently added me by accepting one of my suggestions. However, we reviewers usually remove ourselves again before merging* for smaller contributions to a PR. In the future, if you want to deliberately add someone as a co-author on a pull request you can do so by adding a line of the form

```md
Co-authored-by: NAME <NAME@EXAMPLE.COM>
```

to the main body of your PR.

File: src/category-theory/morphisms-algebras-monads-on-precategories.lagda.md [hunk 83]
```diff
@@ -0,0 +1,120 @@
...
+{{#concept "morphisms of monad algebras" Disambiguation="on a precategory" Agda=algebra-monad-Precategory}}
+between [monad algebras](category-theory.algebras-monads-on-precategories)
```
Comment (fredrik-bakke) [inline src/category-theory/morphisms-algebras-monads-on-precategories.lagda.md]:
```suggestion
between [monad algebras](category-theory.algebras-monads-on-precategories.md)
```

**Comment by fredrik-bakke** [comment]
Thank you for the contribution, and looking forward to seeing more of your work!

**Comment by VojtechStep** [comment]
I think definitions of monad algebras and morphisms are duplicated in the file on monads, but one uses `*-algebra-monad-Precategory` and the other `*-monad-algebra-Precategory`. Is that intentional?

**Comment by ben-connors** [comment]
No, the one in the monads file should've been deleted. Thanks! What's the best way to fix it?

**Comment by fredrik-bakke** [comment]
> No, the one in the monads file should've been deleted. Thanks! What's the best way to fix it?

Please open a new pull request which deletes the relevant duplicates. These concepts deserve their own files, so should not exist in the file on monads.
